* PWL waveform for A
VA A 0 PWL(
  +0.0n 0.0V
+  30.0n 0.0V
+  200.0n 0.0V
+  230.0n 3.3V
+  400.0n 3.3V
+  430.0n 0.0V
+  600.0n 0.0V
+  630.0n 0.0V
+  800.0n 0.0V
+  830.0n 0.0V
+  1000.0n 0.0V
+  1030.0n 3.3V
+  1200.0n 3.3V
+  1230.0n 3.3V
+  1400.0n 3.3V
+  1430.0n 0.0V
+  1600.0n 0.0V
+  1630.0n 3.3V
+  1800.0n 3.3V
+  1830.0n 3.3V
+  2000.0n 3.3V
+  2030.0n 0.0V
+  2200.0n 0.0V
+  2230.0n 3.3V
+  2400.0n 3.3V
+  2430.0n 0.0V
+)
* PWL waveform for B
VB B 0 PWL(
  +0.0n 0.0V
+  30.0n 0.0V
+  200.0n 0.0V
+  230.0n 0.0V
+  400.0n 0.0V
+  430.0n 0.0V
+  600.0n 0.0V
+  630.0n 3.3V
+  800.0n 3.3V
+  830.0n 0.0V
+  1000.0n 0.0V
+  1030.0n 3.3V
+  1200.0n 3.3V
+  1230.0n 0.0V
+  1400.0n 0.0V
+  1430.0n 3.3V
+  1600.0n 3.3V
+  1630.0n 0.0V
+  1800.0n 0.0V
+  1830.0n 3.3V
+  2000.0n 3.3V
+  2030.0n 3.3V
+  2200.0n 3.3V
+  2230.0n 3.3V
+  2400.0n 3.3V
+  2430.0n 0.0V
+)
